US05677319
In a mixed solvent consisting of 50 ml of methanol and 5 ml of water were suspended 1 g of 2-(3,4-diethoxyphenyl)-4-(3-methoxycarbonyl-4-hydroxy-5-allylphenyl)thiazole, 50 mg of palladium acetate [Pd(OAc)2 ] and 230 mg of copper acetate [Cu(OAc)2. H2O]. The suspension was stirred in an oxygen atmosphere at 50° C. for 6 hours. 50 mg of palladium acetate was further added. After 10 hours, 50 mg of palladium acetate was furthermore added. After 14 hours, when no solid starting materials in the reaction mixture were visible, the reaction mixture was filtered. The filtrate was concentrated. The residue was purified by silica gel column chromatography (eluent: dichloromethane/hexane=1/1 by v/v) and recrystallized from methanol-dichloromethane to obtain 230 mg of 2-(3,4-diethoxyphenyl)-4-(2-methyl-7-methoxycarbonyl-5-benzofuryl)thiazole.

reactant | methanol | 50 ml | CO | CH4O
reactant | 2-(3,4-diethoxyphenyl)-4-(3-methoxycarbonyl-4-hydroxy-5-allylphenyl)thiazole | 1 g | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=CC(=C(C(=C1)CC=C)O)C(=O)OC | C24H25NO5S
reactant | oxygen | O=O | O2
catalyst | palladium acetate | 50 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | copper acetate | 230 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
catalyst | palladium acetate | 50 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium acetate | 50 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 5 ml | O | H2O
product | 2-(3,4-diethoxyphenyl)-4-(2-methyl-7-methoxycarbonyl-5-benzofuryl)thiazole | 230 mg | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C=1C=C(C2=C(C=C(O2)C)C1)C(=O)OC | C24H23NO5S
